US07465815B2
2-(4-Isopropylbenzyl)-3,5-dimethylphenol
A mixture of 2-(hydroxy(4-isopropylphenyl)methyl)-3,5-dimethylphenol obtained in Reference Example 147 (12.3 g, 45.5 mmol) and 10%-palladium carbon (50% hydrous, 1.23 g) in acetic acid (90 mL) was heated under hydrogen atmosphere at 90° C. for 16 hours. The catalyst was removed, and the reaction solution was concentrated under reduced pressure. The obtained residue was dissolved in ethyl acetate, washed with 1 N aqueous sodium hydroxide solution and a saturated sodium hydrogen carbonate solution, dried over anhydrous sodium sulfate, filtered, and then concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (ethyl acetate:hexane=1:3) to obtain 10.5 g (yield 90%) of the title compound. Oily matter.

reactant | 2-(hydroxy(4-isopropylphenyl)methyl)-3,5-dimethylphenol | OC(C1=C(C=C(C=C1C)C)O)C1=CC=C(C=C1)C(C)C | C18H22O2
solvent | acetic acid | 90 mL | C(C)(=O)O | C2H4O2
catalyst | palladium carbon | 1.23 g | [C].[Pd]
product | 2-(4-Isopropylbenzyl)-3,5-dimethylphenol | 10.5 g, yield 90% | C(C)(C)C1=CC=C(CC2=C(C=C(C=C2C)C)O)C=C1 | C18H22O
